US07799949B2
10 parts by weight of tris(4-iodophenyl)methanol, 4.4 parts by weight of phenol, and 2 parts by weight of conc. sulfuric acid were put into a reaction vessel and stirred for 4 hours while heating at 80° C. After cooling, a 10% sodium hydroxide solution was added to the reaction solution, and stirring was carried out for 2 hours. A deposited precipitate was collected by filtration, thus giving 8.5 parts by weight of 4-hydroxyphenyl[tris(4-iodophenyl)]methane (yield: 76%).

reactant | tris(4-iodophenyl)methanol | IC1=CC=C(C=C1)C(O)(C1=CC=C(C=C1)I)C1=CC=C(C=C1)I | C19H13I3O
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-hydroxyphenyl[tris(4-iodophenyl)]methane | yield: 76% | OC1=CC=C(C=C1)C(C1=CC=C(C=C1)I)(C1=CC=C(C=C1)I)C1=CC=C(C=C1)I | C25H17I3O
